US05780648
[2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][4-methylphenyl]methanone
In a manner similar to that used in Example 2, 1 g (3 mmol) of [2-(4-methoxyphenyl)-6-methoxybezo[b]thien-3-yl][4-methylphenyl]methanone was converted with 20 mL of 1M BBr3 in CH2Cl2 to 700 mg of the title compound. The final product was isolated a light yellow amorphous powder.

reactant | [2-(4-methoxyphenyl)-6-methoxybezo[b]thien-3-yl][4-methylphenyl]methanone | 3 mmol, 1 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)C | C24H20O3S
reactant | BBr3 | 1M, 20 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][4-methylphenyl]methanone | 700 mg | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(=O)C2=CC=C(C=C2)C | C22H16O3S
